US04774235
Dineophyl-di(parafluorophenyl)tin (62.1 g, 0.108 mol) prepared above was dissolved in chloroform (200 g). While the resulting solution was maintained at -15° to -20° C., chlorine gas (7.6 g, 0.216 gram atom,) was introduced. The mixture was then concentrated under reduced pressure to give 56 g of dineophyl-parafluorophenyltin chloride as a pale-yellow liquid. Gas chromatography analysis indicated 87.5% purity of the desired product.

reactant | Dineophyl-di(parafluorophenyl)tin | 0.108 mol, 62.1 g | C(C(C)(C)C1=CC=CC=C1)[Sn](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)CC(C)(C)C1=CC=CC=C1
reactant | chlorine | 7.6 g | ClCl | Cl2
solvent | chloroform | 200 g | C(Cl)(Cl)Cl | CHCl3
product | dineophyl-parafluorophenyltin chloride | 56 g | C(C(C)(C)C1=CC=CC=C1)[Sn](C1=CC=C(C=C1)F)(CC(C)(C)C1=CC=CC=C1)Cl | InChI=1S/2C10H13.C6H4F.ClH.Sn/c2*1-10(2,3)9-7-5-4-6-8-9;7-6-4-2-1-3-5-6;;/h2*4-8H,1H2,2-3H3;2-5H;1H;/q;;;;+1/p-1
